US09315521B2
6-methyl-2-{[(4-methyl-1,3-thiazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol hydrochloride
To a mixture of 6-methyl-2-{[(4-methyl-1,3-thiazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol (500 mg, 2.0 mmol) in MeOH (5 mL) was added 4 M HCl/dioxane (2 mL, 8.0 mmol). The solution was evaporated and dried in vacuo, affording the title compound (213 mg, 99% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.26 (s, 3H), 2.44 (s, 3H), 4.58 (s, 2H), 6.08 (s, 1H), 9.10 (s, 1H); M+254.

reactant | 6-methyl-2-{[(4-methyl-1,3-thiazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol | 2.0 mmol, 500 mg | CC1=CC(=NC(=N1)SCC1=C(N=CS1)C)O | C10H11N3OS2
reactant | HCl dioxane | 8.0 mmol, 4 M, 2 mL | Cl.O1CCOCC1
solvent | MeOH | 5 mL | CO | CH4O
product | 6-methyl-2-{[(4-methyl-1,3-thiazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol hydrochloride | 213 mg, 99% yield | Cl.CC1=CC(=NC(=N1)SCC1=C(N=CS1)C)O | InChI=1S/C10H11N3OS2.ClH/c1-6-3-9(14)13-10(12-6)15-4-8-7(2)11-5-16-8;/h3,5H,4H2,1-2H3,(H,12,13,14);1H
